data/mechanism_extracts/JACS/10.1021_jacs.5c12057.json
{"doi": "10.1021_jacs.5c12057", "journal": "JACS", "is_review": false, "rxn_class_summary": "Photoinduced chiral N,N'-dioxide/metal Lewis acid-catalyzed asymmetric dearomative [2+2] photocycloaddition of quinolines and indoles with bicyclo[1.1.0]butanes (BCBs) to give chiral dihydroquinoline-fused and indoline-fused bicyclo[2.1.1]hexanes (BCHs).", "mechanism_family": ["biradical", "photoredox_combined", "electrocatalysis_outer_sphere"], "electrochemical_role": null, "key_intermediates": [{"name": "Quinoline-acetyl/Zn(II)/N,N'-dioxide ground-state complex (INT0)", "smiles": null, "role": "resting_state"}, {"name": "Triplet excited quinoline-LA complex (long-lived triplet diradical on quinoline C5-C8/C2-C3 of indole)", "smiles": null, "role": "reactive"}, {"name": "Carbon-centered radical adduct after first C-C bond formation between BCB terminal carbon and quinoline C5 (INT2-Si1, cyclobutyl/quinolinyl 1,4-biradical bound to Zn)", "smiles": null, "role": "transient"}, {"name": "Closed-shell dihydroquinoline-fused BCH product coordinated to Zn (INT3-Si1)", "smiles": null, "role": "transient"}, {"name": "Indole/Tb(III)/L4-TqCPh3 triplet diradical (τ = 0.04 s) for indole substrates", "smiles": null, "role": "reactive"}], "electron_flow": "Chiral N,N'-dioxide/Zn(II) (or Tb(III)) Lewis acid binds the 2-acyl quinoline (or 2-acyl indole) substrate, lowering its triplet energy and inducing a bathochromic shift so that 400 nm light selectively excites the LA-substrate complex to a long-lived triplet diradical; this diradical adds to the strained central C-C bond of the BCB to form a chiral cyclobutyl/aryl 1,4-biradical (regio- and enantio-determining step), which then ring-closes to give the BCH product and regenerates the catalyst. SET is excluded by Rehm-Weller analysis.", "rate_determining_step": "First C-C bond formation between the photoexcited triplet substrate-LA complex and the BCB terminal carbon (TS1-Si1), which is also the regio- and enantio-determining step.", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely inhibited; ESI-HRMS detected [A1+B1+TEMPO+H]+ (m/z 468.2856) and [A1+TEMPO+H]+ (m/z 327.2068), supporting radical intermediates from both quinoline and BCB."}, {"name": "Isoprene / 1,3-diene triplet quencher", "smiles": "C=C(C)C=C", "purpose": "intermediate_trap", "observation": "Yield of C1 reduced to trace, consistent with triplet excited-state pathway."}, {"name": "O2 (air balloon)", "smiles": "O=O", "purpose": "intermediate_trap", "observation": "Yield dropped from 80% to 32% (ee retained 98%), consistent with triplet quenching."}, {"name": "Naphthalene (3 equiv.)", "smiles": "c1ccc2ccccc2c1", "purpose": "intermediate_trap", "observation": "Yield reduced to 57%, consistent with triplet energy transfer quenching."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_other", "UV_vis", "cyclic_voltammetry", "DFT", "isolation_of_intermediate", "on/off_light_or_current"], "evidence_strength": "strong", "notes": "SET (photoredox) mechanism was explicitly excluded: excited-state reduction potential of A1/Zn/L3-RaPr2(CPh3) is +1.17 V vs SCE, incompatible with BCB oxidation (+1.83 V vs SCE). Fluorescence lifetime increased from 3.76 to 4.21 ns and bathochromic shift on LA addition support selective excitation of the LA-bound complex. Quantum yield Φ = 0.04 rules out radical chain, supporting a closed catalytic cycle. Linear ligand-ee vs product-ee shows one ligand per active Zn. Regioselectivity (C5 vs C8 on quinoline; C3 vs C2 on indole) is controlled by the steric profile of the chiral pocket (extended/open/partly open) tuned by ligand bulk; DFT shows TS1-Si2 (C8) is 1.7 kcal/mol higher than TS1-Si1 (C5) due to steric clash with the ramipril framework, and Re-face is blocked by aryl ligand groups (TS1-Re1 disfavored by 1.2 kcal/mol). For indole/Tb system, C3 attack favored over C2 by 2.5 kcal/mol (48.3 vs 50.8 kcal/mol)."}
